US04772600
(R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid 2-hydroxyethyl ester
A solution of (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester (27.4 g, 0.0822 mole) in ethylene glycol (150 ml) was refluxed under nitrogen for 1.75 hours and then cooled. One-third of this solution was added to water (1 liter), extracted with ethyl acetate twice and the combined organic layers were washed three times with water and once with a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, treated with charcoal, filtered, and evaporated to give 8.3 g of a yellow solid (96% yield). The solid was dissolved in hot isopropyl ether (with a little isopropyl alcohol) and filtered hot. Upon cooling to room temperature, solid precipitated, which was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum at room temperature to give 3.29 g of title compound, mp 110°-113° C.

reactant | (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester | 0.0822 mole, 27.4 g | COC([C@H](NC1=NC=CC=C1NC(C1=CC=C(C=C1)Cl)=O)C)=O | C16H16ClN3O3
reactant | water | 1 liter | O | H2O
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | (R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid 2-hydroxyethyl ester | 8.3 g, 96% yield | OCCOC([C@H](N1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)C)=O | C17H16ClN3O3
